US06824882B2
To a mixture of 1.00 g of 22-(nonafluorobutyl)-1-docosanol and 30 mL of 48 weight percent hydrobromic acid was slowly added 3 mL of concentrated sulfuric acid, and the reaction mixture was heated at 100° C. for 24 hr. The mixture was cooled to room temperature, and the solid product was collected by filtration and dissolved in hexanes. The filtrate was extracted once with hexanes, and the combined hexanes solutions were washed with saturated aqueous sodium bicarbonate and brine, and dried over anhydrous magnesium sulfate. Filtration and concentration yielded 1.03 g of 1-bromo-22-(nonafluorobutyl)docosane as an off-white solid, which was used without further purification.

reactant | 22-(nonafluorobutyl)-1-docosanol | 1.00 g | FC(C(C(CCCCCCCCCCCCCCCCCCCCCCO)(F)F)(F)F)(C(F)(F)F)F | C26H45F9O
reactant | hydrobromic acid | Br | BrH
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
product | 1-bromo-22-(nonafluorobutyl)docosane | 1.03 g | BrCCCCCCCCCCCCCCCCCCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C26H44BrF9
